US04082850
To 49 ml of absolute ethanol is added with vigorous stirring, 81 g of phosphorus pentoxide. After addition, the mixture is allowed to stir at 95°-100° C for 1 hour, 400 ml of tetramethylene sufone are added and the temperature is adjusted to 86°-90° C. Then, 38.5 g of 4-(2-carboxybenzyloxy)phenylacetic acid, Example 1, are added, the mixture is stirred for 4 hours and poured onto ice water. The aqueous mixture is made basic with sodium hydroxide and extracted with toluene. Cooling of the aqueous layer followed by acidification with concentrated hydrochloric acid gives light brown crystals. Recrystallization from acetic acid-water or from dimethoxyethane provides colorless crystals, mp 126°-128° C of 6,11-dihydro-11-oxodibenz[b,e]oxepin-2-acetic acid.

reactant | phosphorus pentoxide | 81 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | tetramethylene sufone | 400 ml | C1CCCS1(=O)=O | C4H8O2S
reactant | 4-(2-carboxybenzyloxy)phenylacetic acid | 38.5 g | C(=O)(O)C1=C(COC2=CC=C(C=C2)CC(=O)O)C=CC=C1 | C16H14O5
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 49 ml | C(C)O | C2H6O
product | 6,11-dihydro-11-oxodibenz[b,e]oxepin-2-acetic acid | O=C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)CC(=O)O | C16H12O4
